Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
called by ED to evaluate for hemorrhage

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old R-handed man with recent diagnosis of R kidney
cancer (he has received no treatment yet) who had a 20 min
episode of L arm numbness and weakness yesterday; another 
episode
of 20min of L face, arm numbness and weakness, today, resolved,
no hx of trauma, found to have a R parietal SAH; strong family 
hx
of aneurysm in the family.

Patient reports that he was in his usual state of health until
yesterday afternoon; he was walking when he suddenly noticed 
that
his L arm was heavy and numb. The episode lasted for ___ 
and
completely resolved. He denies leg weakness, he continued to 
walk
normally. He denied headache, dysarthria.

This afternoon at 4:30pm, he reports a sudden onset of L face
weakness and numbness; he also has slurred speech; his L arm
again was numb and weak. He denied leg weakness. He could walk
normally. This also resolved after 20min. This time he went to
OSH where a CT head showed a R parietal hemorrhage, most
consistent with a SAH. He denies any head trauma.  

ROS: 
The patient denied visual difficulty, hearing changes, 
difficulty
speaking, language problems, memory difficulty, difficulty
swallowing, vertigo, unsteady gait.

The patient denied fever, wt loss, appetite changes, cp,
palpitations, DOE, sob, cough, wheeze, nausea, vomiting,
diarrhea, constipation, abd pain, fecal incont, dysuria,
nocturia, urinary incontinence, muscle or joint pain, hot/cold
intolerance, polyuria, polydipsia, easy bruising, depression,
anxiety, stress, or psychotic sx.

 
Past Medical History:
- R kidney cancer (he has received no treatment yet)
- prostate hyperplasia
- congenital R eye cataract
 

 
Social History:
___
Family History:
 His identical twin died of a brain aneurysm at the age of
___
 

 
Physical Exam:
Exam: 
T-97.3 BP-173/73 HR-48 RR-20 100O2Sat
Gen: Lying in bed, NAD
HEENT: NC/AT, moist oral mucosa   
Neck: No tenderness to palpation, normal ROM, supple, no carotid
or vertebral bruit
Back: No point tenderness or erythema
CV: RRR, Nl S1 and S2, no murmurs/gallops/rubs 
Lung: Clear to auscultation bilaterally 
aBd: +BS soft, nontender 
ext: no edema

Neurologic examination: 
Mental status: Awake and alert, cooperative with exam, normal 
affect.  Oriented to person, place, and date.  Attentive, says
___ backwards.  Speech is fluent with normal comprehension and
repetition; naming intact. No dysarthria. Reading and writing
intact.  Registers ___, recalls ___ in 5 minutes.  No right left
confusion. No evidence of apraxia or neglect.
 
Cranial Nerves:  
Pupils equally round and reactive to light, 4 to 2 mm on L eye; 
R
eye is blind (congenital cataract). Visual fields is full to
confrontation on L eye. Extraocular movements intact 
bilaterally,
no nystagmus. Sensation intact V1-V3.  Facial movement 
symmetric.
Hearing intact to finger rub bilaterally.  Palate elevation
symmetrical.  Sternocleidomastoid and trapezius normal
bilaterally. Tongue midline, movements intact
 
Motor: 
Normal bulk bilaterally. Tone normal. No observed myoclonus or
tremor
No pronator drift
  Del Tri Bi  WF WE FE FF  IP  H  Q DF PF TE TF
R  ___  ___  ___  ___  5  5
L  ___  ___  ___  ___  5  5  
 
Sensation: Intact to light touch, pinprick, vibration and
proprioception throughout. No extinction to DSS
 
Reflexes: B T Br Pa Pl 
Right     ___  1  0 
Left      ___  1  0  
Toes were downgoing bilaterally. 

 
Coordination: finger-nose-finger normal, heel to shin normal,
RAMs normal. 
 
Gait: Narrow based, steady.
 
Romberg: Negative

 
Pertinent Results:
___ 08:15PM BLOOD WBC-7.2 RBC-4.42* Hgb-13.6* Hct-41.0 
MCV-93 MCH-30.8 MCHC-33.2 RDW-13.4 Plt ___
___ 08:15PM BLOOD Neuts-70.4* ___ Monos-5.9 Eos-2.6 
Baso-0.6
___ 08:15PM BLOOD ___ PTT-26.3 ___
___ 08:15PM BLOOD Glucose-89 UreaN-21* Creat-1.1 Na-143 
K-4.2 Cl-106 HCO3-29 AnGap-12
___ 08:15PM BLOOD Calcium-9.0 Phos-3.2 Mg-2.1

Imaging:

CTA:
 
NON-CONTRAST HEAD CT: As seen on the outside hospital study, 
there is 
high-density along the precentral sulcus on the right, 
suggestive of 
subarachnoid hemorrhage. There is no other intracranial 
hemorrhage 
identified. No territorial infarction is noted. There is 
prominence of the 
ventricles and sulci, compatible with a degree of atrophy. There 
is no shift 
of normally midline structures. 
  
CTA OF THE HEAD: The vessels of the anterior and the posterior 
circulation 
are patent without hemodynamically significant stenosis, 
occlusion, or 
aneurysm. The vertebral arteries are codominant. There is no 
evidence of 
vascular malformation in the area of the subarachnoid 
hemorrhage. The A1 
segment of the left anterior cerebral artery is hypoplastic, a 
normal variant. 
  
The paranasal sinuses and mastoid air cells are clear. There has 
been a root 
canal in the first left maxillary molar with periapical lucency 
noted in this 
tooth. The orbits and facial soft tissues appear unremarkable. 
  
IMPRESSION: 
  
No evidence of vascular malformation in the area of the 
right-sided posterior 
frontal subarachnoid hemorrhage. No evidence of an intracranial 
aneurysm. 
  
MRI:
FINDINGS: FLAIR-hyperintensity is seen layering along the right 
posterior 
frontal sulci, and demonstrate corresponding foci of "blooming" 
on the 
susceptibility images, consistent with subarachnoid hemorrhage. 
No new focus of hemorrhage is identified. There is no evidence 
of infarction on the diffusion weighted images. There is a 
moderate amount of central parenchymal atrophy with dilation of 
the third and lateral ventricles, as well as marked, diffuse ex 
vacuo enlargement of the ___ spaces, centrally, with 
an etat crible appearance. Flow voids of the intracranial 
vertebral and internal carotid arteries and their major branches 
are preserved. In this non-contrast study, the flow voids of the 
dural venous sinuses are normal, and no obvious cortical vein 
thrombosis is identified. 
  
IMPRESSION: 
1. No acute infarction. 
2. Isolated posterior right frontal subarachnoid hemorrhage, 
unchanged; no 
new hemorrhage is detected.  
3. Severe central parenchymal atrophy, likely on a microvascular 
basis. 
  
COMMENT: In the absence of obvious underlying vascular 
abnormality, other 
etiologies such as reversible vasoconstriction ___ 
syndrome) and, in a patient of this age, amyloid angiopathy 
should be considered as possible diagnoses. Review of the recent 
CTA demonstrates normal opacification of the principal dural 
venous sinuses and deep cerebral veins, making cerebral venous 
thrombosis unlikely.  

(notable microbleeds on gradient echo)

Echo:

The left atrium is normal in size. The estimated right atrial 
pressure is ___. Left ventricular wall thickness, cavity 
size and regional/global systolic function are normal (LVEF 
>55%). Tissue Doppler imaging suggests a normal left ventricular 
filling pressure (PCWP<12mmHg). Right ventricular chamber size 
and free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. Trivial mitral regurgitation is seen. The left 
ventricular inflow pattern suggests impaired relaxation. There 
is a trivial/physiologic pericardial effusion. 

IMPRESSION: Normal biventricular systolic function.  

 
Brief Hospital Course:
The patient was admitted with 2 transient episodes. The first 
episode was of left arm weakness and numbness. The second 
episode was of left face numbness and slurring of  speech. These 
each lasted about ___ minutes, with sudden onset and slow 
resolution. In addition the patient gave a history of a mild 
fall backwards the day before these events occured, although 
does not endorse any head strike or notable head injury.

The patient was evaluted in the emergency room with a head CT 
which showed a small right fronto-parietal subarachnoid 
hemorrhage. A CTA was done and it did not show any evidence of 
aneurysm or vascular malformation.  The patient was seen by 
neurosurgery in the emergency room who did not feel the patient 
needed surgical intervention.  The patient was admitted to 
neurology for further workup and monitoring.

The patient BP were well controlled overnight and did not need 
intervention.  He had an MRI which showed the SAH and 
additionally showed  evidence of prior microbleeds.  Given the 
number of microbleeds and the lack of a clear story of head 
trauma, this ___ is likley the result amyliod angiopathy.  The 
patient was counseled on this condition.  He was also advised to 
not take any antiplatelet agents to reduce the risk of further 
bleeds.  We also adivsed against the use of a statin for its 
association with bleeding.  To rule out any source of possible 
emboli the patient had an echocardiogram of the heart which was 
normal.

The patient was seen by ___ who recommended  

 
 
Medications on Admission:
-tansulosin 0.4mg
-finasteride 5mg

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right sided sub-arachnoid hemorrhage, likely due to amyloid 
angiopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
laguage intact, comprehension intact, naming intact
CN: disconjugate gaze at baseline, blind in R eye, mild right 
NLF but activates well on both sides, no other deficits
Motor: full at ___: no deficits
Gait: narrow based steady

 
Discharge Instructions:
You were admitted with 2 transient episodes.  The first episode 
was of left arm weakness and numbness.  The second episode was 
of left face numbness and slurring of your speech.  These each 
lasted about ___ minutes, with sudden onset and slow 
resolution.  You were evaluted in the emergency room with a head 
CT which showed a small bleed on the surface of your brain on 
the right side, called a subarachnoid hemorrhage.  A CTA (image 
of the blood vessels of the brain) was done and it did not show 
any evidence of aneurysm or vascular malformation.  You then had 
an MRI which showed the bleeding and evidence of prior small 
bleeds in the past.  It is very likely that these small bleeds 
and this current bleed are caused by a condition called amyloid 
angiopathy, which is a deposition of an protein into the blood 
vessels of the brain causing them to be brittle.  There is no 
particular treatment for this condition but we would advise 
against taking medications that would place you at higher risk 
for bleeding, such as aspirin or other nsaids (ibuprofen, 
naproxen).  You had an echo of your heart which was normal.  You 
also had an EEG (brain wave test) which did not show any 
evidence of seizure or seizure provoking activity.  You were 
sent home on a low does of an anti-epileptic medication called 
Keppra that you will remain on for ___ months.  This will be 
re-evaluated by Dr. ___ on your next clinic visit.

Your medications were not changed.

Please take all medications as presribed.  Please make all 
follow up appointments.  If you have any worsening of your 
symptoms or additional episodes please call your doctor or 
return to the nearest emergency room.
 
Followup Instructions:
___